Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
alcohol withdrawal

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year old woman with a pmh significant for etoh
use disorder ___ years) who presents after a fall down some
stairs with LOC. Ms. ___ does not remember the events 
preceding
the fall. She remembers talking to her husband and then on the
ground with a swollen face. Her last drink was on the morning of
the fall. She drinks about 2 large drinks a day or about a pint
of hard alcohol daily (whisky/brandy) and has been for about the
past ___ years. She denies any withdrawal seizures currently or in
the past. In addition, she notes that she has on going thoughts
of being dead since she was young and endorsed SI with a plan in
the ED but stated that she has no intentions of carrying it out.
Thus psychiatry was consulted for a safety evaluation and it was
determined she meets section 12a criteria. Plan for inpatient
psychiatric hospitalization once medically clear. 

 
Past Medical History:
EtOH use disorder  
Suspected PTSD  
Leg operation ___ years ago, car accident 
Recent R arm fracture                                            

MDD vs. substance-induced depression  

 
Social History:
___
Family History:
Father: ___ grandmother and sister: ___ use disorder 

 
Physical Exam:
ADMISSION PHYSICAL EXAM  
VS: HR: 100, BP:146/101, RR:12 100% RA
GENERAL: Alert and interactive. In no acute distress. 
HEENT: NCAT. PERRL, slightly dilated, EOMI. Sclera anicteric and
without injection. MMM. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing. 
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally. 
SKIN: Warm. Cap refill <2s. No rash. 
NEUROLOGIC: AOx3. mild bilateral hand tremor

Admission:
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round, slightly dilated to 5 mm
ENT: L above the eye and below the eye has scratches and 
bruises,
with no obvious deformity. Oropharnyx moist MM, no obvious
lesions.
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted other than bruising and
excoriations on her face.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout. No asterixis. Gait antalgic due to ankle
injury. Negative Romberg.
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION LABS:
================
___ 04:21PM BLOOD WBC-5.0 RBC-3.85* Hgb-13.6 Hct-40.5 
MCV-105* MCH-35.3* MCHC-33.6 RDW-14.2 RDWSD-55.0* Plt ___
___ 04:21PM BLOOD Neuts-55.3 ___ Monos-7.0 Eos-0.4* 
Baso-0.4 Im ___ AbsNeut-2.76 AbsLymp-1.83 AbsMono-0.35 
AbsEos-0.02* AbsBaso-0.02
___ 04:21PM BLOOD Glucose-96 UreaN-9 Creat-0.6 Na-147 K-3.8 
Cl-102 HCO3-27 AnGap-18
___ 04:21PM BLOOD ALT-67* AST-227* AlkPhos-109* TotBili-0.4
___ 04:21PM BLOOD Albumin-4.3 Calcium-8.9 Phos-2.9 Mg-1.8
___ 04:21PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
___ 01:49AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 01:49AM BLOOD HCV Ab-NEG
___ 04:29PM BLOOD Lactate-2.9*

IMAGING:
=========
KNEE (AP, LAT & OBLIQUE) LEFT (___)
IMPRESSION:    
No fracture. 

CT HEAD W/O CONTRAST (___)
IMPRESSION:  
No acute intracranial process. 

RUQUS ___:
 
IMPRESSION:  
  
Coarsened and diffusely echogenic liver consistent with 
steatosis. Other forms 
of liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis 
cannot be excluded on the basis of this examination. 
  

Discharge:
======================

___ 07:16AM BLOOD WBC-4.8 RBC-3.07* Hgb-11.0* Hct-32.1* 
MCV-105* MCH-35.8* MCHC-34.3 RDW-13.2 RDWSD-50.4* Plt ___
___ 07:16AM BLOOD Plt ___
___ 01:49AM BLOOD ___ PTT-24.4* ___
___ 07:16AM BLOOD Glucose-95 UreaN-3* Creat-0.5 Na-138 
K-3.8 Cl-102 HCO3-21* AnGap-15
___ 07:16AM BLOOD ALT-56* AST-157* LD(LDH)-200 AlkPhos-89 
TotBili-0.8
___ 07:16AM BLOOD Calcium-8.4 Phos-3.6 Mg-1.6
___ 01:49AM BLOOD VitB12-342
___ 01:49AM BLOOD TSH-3.9
___ 01:49AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG
___ 04:21PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ year old F w/ hx of EtOH use disorder who
presents after a fall down 5 stairs yesterday where she suffered
loss of consciousness, found to be in severe alcohol withdrawal, 
also found initially to have suicidal ideation which improved 
prior to discharge.

HOSPITAL COURSE
================

# EtOH withdrawal:
# EtOH intoxication
# Fall:
Patient presented after a fall while intoxicated. Initially she 
was intoxicated in the ED but subsequently developed severe 
alcohol withdrawal with significant tachycardia, hypertension, 
and anxiety requiring ICU admission. She was loaded with high 
dose phenobarbital and received one dose of valium as well on 
___. Her symptoms improved significantly throughout the day ___ 
into ___. We recommended that she stay again overnight ___ into 
___, but she elected to leave against medical advice, expressing 
good understanding of the risks of doing so. She should follow 
up with a new PCP at ___, and should continue her thiamine, 
folate, and MVI. She met with our social worker who gave her 
resources for relapse prevention in the outpatient. The patient 
reports a good support system. We did not have more time to 
evaluate her plan for sobriety prior to discharge given that she 
left against medical advice.

# Suicidal ideation  
# Inability care for one's self: Psychiatry consulted in ED, and 
had concerns about her depression and ongoing suicidal ideations 
at that time. As patient became sober, she reported that her 
depressive symptoms improved and she no longer had suicidal 
ideations. She was initially placed on a ___ but this was 
lifted on ___ by psychiatry. She should follow up with her new 
PCP who can help her get connected to mental health care as 
well.

# Transaminitis:
# Alcoholic hepatitis: LFT's in 100's, AST>ALT consistent with 
alcoholic hepatitis. MDF was low so no steroids were started. 
AST improved to 157 from 314 prior to discharge. We recommended 
trending her LFT's one more day but the patient left AMA. She 
should have LFT's checked at next visit. OF note, she was 
hepatitis B non-immune so she should likely be immunized at her 
next visit. RUQUS showed Coarsened and diffusely echogenic liver 
consistent with steatosis, hard to exclude cirrhosis.

# Macrocytosis  
Likely ___ chronic alcohol use  

Transitional Issues:
==============================
[] Needs new PCP appointment at ___ at ___- We have provided 
the patient with the number to call (___). 
[] Would benefit from hepatitis B vaccination (she is nonimmune)
[] Would benefit from mental health care as outpatient- she will 
pursue this through her new PCP
[] Check LFT's as next visit. Consider Liver follow up as well 
for fibroscan, further liver workup given concern for early 
cirrhosis vs. fibrosis.

***AMA discharge

More than 30 minutes were spent preparing this discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tab-cap by mouth once a day Disp 
#*30 Tablet Refills:*0 
3.  Thiamine 200 mg PO DAILY 
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth once a day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: EtOH withdrawal, alcoholic hepatitis, hepatic steatosis
Secondary: Depression.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because you had a fall and also 
developed withdrawals from the alcohol. You also had evidence of 
injury to your liver, which was improving by the time you left. 
We recommended that you stay at least until ___ to monitor 
you for withdrawals, but you decided to leave against our 
medical advice. You need to call to make an appointment with a 
new PCP. Please call Healthcare Associates at ___ at 
___ to schedule this appointment.
 
Followup Instructions:
___